US07459472B2
2-(S)-(2-Benzyloxy-5-bromo-benzoylamino)-3-biphenyl-4-yl-propionic acid methyl ester (82 mg) was prepared from 3-biphenyl-4-yl-2-(S)-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester (150 mg, 0.33 mmol) and benzyl bromide (0.047 mL, 0.40 mmol) as described in general procedure G and purified over silica gel (7:3, DCM-hexanes).

reactant | 3-biphenyl-4-yl-2-(S)-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester | 0.33 mmol, 150 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)O)=O)=O | C23H20BrNO4
reactant | benzyl bromide | 0.40 mmol, 0.047 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(S)-(2-Benzyloxy-5-bromo-benzoylamino)-3-biphenyl-4-yl-propionic acid methyl ester | 82 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1)=O)=O | C30H26BrNO4
